US03953500
To stirred polyphosphoric acid, prepared from 100 g. of phosphorus pentoxide and 70 ml. of phosphoric acid, 5.0 g. of 3-[o-(p-chlorobenzyl)phenyl]propionic acid is added. The mixture is stirred at 110°-120°C for 2 hours. Upon addition of ice-water, yellow crystals separate out. These crystals are collected by filtration, washed with water and dried. The crystals are purified by column chromatography (silica gel; eluted with a 40 : 1 mixture of benzene and ethyl acetate. The described procedure gives 4-(p-chlorobenzyl)indan-1-one as crystals melting at 87°-88°C.

reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | 3-[o-(p-chlorobenzyl)phenyl]propionic acid | ClC1=CC=C(CC2=C(C=CC=C2)CCC(=O)O)C=C1 | C16H15ClO2
product | 4-(p-chlorobenzyl)indan-1-one | ClC1=CC=C(CC2=C3CCC(C3=CC=C2)=O)C=C1 | C16H13ClO
